US05461158
N-benzyl-4-(1-benzylthio-1-methylethyl)-3-methoxycarbonyl-2-methylene-4-butanelactam (compound No.6-1)
To a stirred suspension of zinc dust (0.68 g) activated with hydrochloric acid in THF (15 ml), N-(2-benzylthio-2-methylpropylidene)benzylamine (1.42 g) dissolved in THF (15 ml) and dimethyl 2-bromomethylfumarate (1.28 g) dissolved in THF are added dropwise while refluxing under nitrogen atmosphere. The mixture is stirred for additional 1.5 hours under refluxing. To the mixture saturated aqueous ammonium chloride solution is added. After cooling, the mixture is filtered by celite. A reaction product is extracted with ethyl acetate from the filtrate. The organic layer is washed with 1N hydrochloric acid, water and then saturated sodium chloride solution. The organic layer is dried over anhydrous magnesium sulfate and concentrated in vacuo. The oily residue is purified by silica gel column chromatography to give the titled compound.

reactant | hydrochloric acid | Cl | ClH
reactant | N-(2-benzylthio-2-methylpropylidene)benzylamine | 1.42 g | C(C1=CC=CC=C1)SC(C=NCC1=CC=CC=C1)(C)C | C18H21NS
reactant | dimethyl 2-bromomethylfumarate | 1.28 g | BrC/C(/C(=O)OC)=C\C(=O)OC | C7H9BrO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | zinc | 0.68 g | [Zn] | Zn
product | N-benzyl-4-(1-benzylthio-1-methylethyl)-3-methoxycarbonyl-2-methylene-4-butanelactam | C(C1=CC=CC=C1)N1C(C(C(C1C(C)(C)SCC1=CC=CC=C1)C(=O)OC)=C)=O | C24H27NO3S
